US06262056B1
4. 3-chloro-1-(5-nitro-benzo[b]thiophen-3-yl)-propan-1-one
A solution of 1 g (5.58×10−3 moles) of 5-nitrobenzo[b]thiophene and 0.65 ml (6.64×10−3 moles) of 2-chloropropionyl chloride dissolved in 40 ml of dry chloroform was added dropwise over 650 mg of aluminum trichloride, dissolved in 20 ml dry chloroform under a nitrogen atmosphere. The mixture was left to react for 24 hours at room temperature and an additional amount of 650 mg of aluminum trichloride and 0.65 ml of 2-chloropropionyl chloride was added. After 48 hours reaction 100 ml of HCl 1.5N were added, followed by decantation and the organic phase was subsequently washed with a dilute solution of NaHCO3, with H2O and with a saturated solution of NaCl. It was dried with Na2SO4, the solvent was removed and it was purified in a silica column using hexane/toluene (25:75) as mobile phase. Yield: 30%.

reactant | 5-nitrobenzo[b]thiophene | 5.58×10−3 moles, 1 g | [N+](=O)([O-])C1=CC2=C(SC=C2)C=C1 | C8H5NO2S
reactant | 2-chloropropionyl chloride | 6.64×10−3 moles, 0.65 ml | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | aluminum trichloride | 650 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | aluminum trichloride | 650 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-chloropropionyl chloride | 0.65 ml | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | HCl | 1.5N, 100 ml | Cl | ClH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-1-(5-nitro-benzo[b]thiophen-3-yl)-propan-1-one | Yield: 30% | ClCCC(=O)C=1C2=C(SC1)C=CC(=C2)[N+](=O)[O-] | C11H8ClNO3S
